** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/lth_inv_dc_vout.sch
**.subckt lth_inv_dc_vout
VDD VDD GND {VDD}
Vgsp vin GND 0
x4 VDD vin vout net1 low_th_inverter
vout1 net1 GND 0
.save i(vout1)
**** begin user architecture code


.include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param temp=27
.param Cload=10p
.param Rload=1k
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control

save all

* Operating Point Analysis
op
remzerovec
write lth_inv_dc_vout.raw
set appendwrite

* DC Sweep
dc Vgsp 0 $&VDD 1m
remzerovec
write lth_inv_dc_vout.raw
set appendwrite

* Plotting
plot vin vout
plot i(vout1)

* Measurement
meas dc Vgsp_at_Vcm when vout=Vcm
print Vgsp_at_Vcm

* Write Data
unset appendwrite
set wr_vecnames
set wr_singlescale
wrdata ../plot_simulations/data/lth_inv_dc_vout.txt v(vin) v(vout)

*quit
.endc



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt

**** end user architecture code
**.ends

* expanding   symbol:  low_th_inverter.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/low_th_inverter.sch
.subckt low_th_inverter VDD vin vout VSS
*.ipin vin
*.iopin VDD
*.iopin VSS
*.opin vout
XM1 vout vin VSS VSS sg13_hv_nmos w={n_ng*n_w} l={n_l} ng={n_ng} m=1 mm_ok=1
XM2 vout vin VDD VDD sg13_hv_pmos w={p_ng*p_w} l={p_l} ng={n_ng} m=1 mm_ok=1
**** begin user architecture code


.param n_ng = 3
.param n_w = 1u
.param n_l = 0.45u
.param p_ng = 3
.param p_w = 1u
.param p_l = 0.4u


**** end user architecture code
.ends

.GLOBAL GND
.GLOBAL VDD
.end
